US09376441B2
In a pressure tube, 5-bromo-2-fluorobenzonitrile (2500 mg, 12.5 mmol), tert-butyl piperazine-1-carboxylate (2444.45 mg, 13.12 mmol), triethylamine (5.23 ml, 37.5 mmol) in dimethylsulfoxide (10 ml) were combined and refluxed at 100 C for ovn. The mixture was cooled, and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was dried using sodium sulfate and concentrated. The residue was purified by flash column chromatography on silica gel 5-60% ethyl acetate/hexane to provide a light brown oil, tert-butyl 4-(4-bromo-2-cyanophenyl)piperazine-1-carboxylate (3660 mg, 80%).

reactant | 5-bromo-2-fluorobenzonitrile | 12.5 mmol, 2500 mg | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | tert-butyl piperazine-1-carboxylate | 13.12 mmol, 2444.45 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 37.5 mmol, 5.23 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | tert-butyl 4-(4-bromo-2-cyanophenyl)piperazine-1-carboxylate | 3660 mg, 80% | BrC1=CC(=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C#N | C16H20BrN3O2
